US03951983
A solution of crude 1-(2-carboxyphenoxy)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-2-ol (43 g.) in 250 ml. of methanol containing 25 ml. of concentrated sulfuric acid was refluxed for 1.5 hours and then allowed to cool to room temperature. Upon completion of this step, the resulting solution was concentrated in vacuo to a volume of approximately 100 ml., then poured into 250 ml. of water and made alkaline with aqueous sodium hydroxide solution. The latter basified solution was next thoroughly extracted with chloroform, and the chloroform extracts subsequently combined and dried over anhydrous magnesium sulfate. After removal of the drying agent by means of filtration and the solvent by means of evaporation under reduced pressure, there were ultimately obtained 34 g. of crude product as residual material. Crystallization of a portion of the latter material from methanol then gave pure 1-(2-methoxycarbonylphenoxy)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-2-ol, m.p. 127°-128°C.

reactant | 1-(2-carboxyphenoxy)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-2-ol | 43 g | C(=O)(O)C1=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=CC=C1 | C21H26N2O5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 25 ml | CO | CH4O
product | 1-(2-methoxycarbonylphenoxy)-3-[4-(2-methoxyphenyl)piperazin-1-yl]propan-2-ol | COC(=O)C1=C(OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O)C=CC=C1 | C22H28N2O5
